2159-05-02 08:20:00 Physician Resident Progress Note
Chief Complaint: altered mental status
   24 Hour Events:
   lactulose enema overnight
   treated for hyperkalemia with insulin/glucose, bicarbonate, kayexalate
   Stopped IVF given rapid correction of Na with 2L saline from ED
   Allergies:
   Shellfish
   Rash;
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   Hepatic toxicit
   Tricyclic Compounds
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2159-5-1**] 09:30 PM
   Ciprofloxacin - [**2159-5-1**] 10:20 PM
   Vancomycin - [**2159-5-1**] 11:40 PM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2159-5-1**] 09:15 PM
   Dextrose 50% - [**2159-5-1**] 09:15 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2159-5-1**] 09:15 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies pain, but remains confused. Feels thirsty
   Flowsheet Data as of  [**2159-5-2**] 08:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 112 (78 - 112) bpm
   BP: 137/66(83) {126/57(76) - 162/78(95)} mmHg
   RR: 24 (14 - 24) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,813 mL
                                                                    320 mL
   PO:
             TF:
   IVF:
                                                                    713 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,585 mL
                                                                    808 mL
   Urine:
                                                                    685 mL
                                                                    808 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,228 mL
                                                                   -488 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: none
   Physical Examination
   Lying in bed, no distress
   PEARL, Sclera anicteric
   Dry MM
   Regular S1 S2 systolic murmur throughout precordium
   Lungs clear to anterior exam, no rales or wheezing
   Abd soft +bowel sounds, no fluid wave, mild RUQ tenderness unchanged
   Extrem warm no edema palpable distal pulses
   Follows commands to squeeze hands, lifts legs off bed, does not
   cooperate for asterixis testing.  Oriented to person, place and year
   Labs / Radiology
   61 K/uL
   12.2 g/dL
   74 mg/dL
   0.8 mg/dL
   19 mEq/L
   5.1 mEq/L
   21 mg/dL
   96 mEq/L
   124 mEq/L
   36.6 %
   10.8 K/uL
        [image002.jpg]
                             [**2159-5-1**]  08:04 PM
                             [**2159-5-2**]  03:18 AM
   WBC
   10.8
   Hct
   36.6
   Plt
   61
   Cr
   0.7
   0.8
   Glucose
   84
   74
   Other labs: PT / PTT / INR:16.8/34.9/1.5, ALT / AST:41/98, Alk Phos / T
   Bili:155/3.6, Ca++:10.4 mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Micro
   [**5-1**] blood cx NGTD
   [**5-1**] urine cx NGTD
   [**5-1**] urine legionella antigen negative
   [**5-1**] KUB c/w ileus (official read pending)
   [**5-1**] RUQ US:
   1. Patent TIPS catheter with wall-to-wall flow.
   2. No intra-abdominal fluid.
   3. Unchanged liver echotexture consistent with history of cirrhosis.
   Assessment and Plan
   This 50F with hepatitis C cirrhosis, DM, and secondary adrenal
   insufficiency with recent hospitalization for hepatic encephalopathy
   returns with altered mental status and is found to be profoundly
   hyponatremic.
   .
   * Altered mental status
   Many possible etiologies in this patient with advanced liver disease.
   Hyponatremia and hypercalcemia both potential culprits - the factor
   that she's waking up following hydration in the ER suggests that these
   were important factors and sodium also improved. WBC is elevated,
   concerning for possible underlying infection. No ascites to tap per
   ultrasound report. Worsened hepatic encephalopathy is obviously a
   concern given recent hospitalization. No evidence of GIB as possible
   precipitant of encephalopathy. No findings on exam to suggest
   meningitis. She is on multiple sedating medications such as oxycodone
   and neurontin, which may be contributing. There is no evidence of CNS
   bleeding and seizure seems unlikely. MI also less likely.
   - IVF for treatment of Na, Ca (see below)
   - blood and urine cultures
   - hold oxycodone and neurontin
   - place NGT
   - rifaximin and lactulose
   - urine and blood tox screens
   - will HOLD on LP for now given multiple other possible explanations
   for somnolence that are more likely for her
   - hold on ABG as MS improving
   - Attempt to obtain patient
s baseline MS from recent team on the floor
   .
   * Hyponatremia
   Na corrected rapidly post 2L of saline in ER yesterday, remained stable
   overnight
   Concern for intravascular volume depletion give recently restarted
   spironolactone, poor PO.
   - Repeat 1pm lytes, if Na stable will resume saline goal correction
   <=0.5meq/hr
   - HOLD diuretics for now
   - Goal I/O even
   .
   * Tachycardia
   Telemetry c/w sinus tach. Probably multifactorial with dehydration, and
   now also low grade temps. Consider whether opiate withdrawal could be
   contributing.
   - IVF plan as above, acetaminophen<2g/day okay for fever, continue to
   follow with infectious workup as below
   * Leukocytosis
   Suggests possible infection. CXR without evidence of pna. Could be
   atypical pna, may also mask infiltrate in setting of dehydration. Broad
   DDX including UTI, C diff given recent hospitalization. UA without any
   pyuria to suggest UTI. Absence of ascites on abdominal ultrasound
   making SBP less likely
   - Blood and urine cultures, urine legionella, CIS. sputum if making any
   - Follow CBC
   - Change abx to levo/flagyl for possible HAP/aspiration PNA
   .
   * Hyperkalemia
   Improved today
   [**Month (only) 51**] be exacerbated by resuming both spironolactone and bactrim at
   recent discharge. EKG with peaked T's
   - Kayexalate
   - improved with glucose/insulin, bicarb. holding on calcium given hyper
   Ca
   - monitor on telemetry
   - Follow K daily
   .
   * Hypercalcemia
   Patient was hypercalcemic at last admit, with improvement with holding
   calcium supplements per DC summary. PTH appropriately down at 13. Has
   been evaluated in endocrinology clinic and thought to be [**1-8**] high doses
   of calcitriol.
   - Holding calcium/D
   - IVF as above, follow
   .
   * Dilated bowel on CXR
   KUB c/w  ileus may be due to hypomagnesemia/hypercalcemia. Soft abdomen
   and nl lactate reassuring.  Now stooling so ileus improving.
   - Follow/Replete Mag
   - Serial abdominal exams
   - Follow stool output
   .
   * Wrist pain
   Question of wrist fracture on plain films. Pt with known osteoporosis.
   - Placed in splint, discuss with ortho in AM
   .
   * Cirrhosis
   MELD 16 today.
   - Rifaximin and lactulose, can give via NGT now that ileus resolving
   - Trend LFTs, INR
   - Liver recommendations appreciated
   .
   * Thrombocytopenia
   Plts stable, follow
   .
   * DM
   Cover with insulin sliding scale
   .
   * Adrenal insufficiency
   Continue home prednisone, BP stable and mental status improved arguing
   against Addisonian crisis
   .
   * Asthma
   Continue home inhalers
   .
   * Chronic pain
   Holding opiates as above
   ICU Care
   Nutrition:
   Comments: NPO, advance slowly to sips today given MS [**First Name (Titles) 7795**]
[**Last Name (Titles) 7796**]mic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2159-5-1**] 09:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  aspiration precautions
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU, c/o to [**Hospital Ward Name 289**] 10 this afternoon if stable

2159-05-03 07:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Shellfish
   Rash;
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   Hepatic toxicit
   Tricyclic Compounds
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2159-5-1**] 09:30 PM
   Ciprofloxacin - [**2159-5-1**] 10:20 PM
   Vancomycin - [**2159-5-2**] 08:46 AM
   Levofloxacin - [**2159-5-2**] 11:28 AM
   Metronidazole - [**2159-5-3**] 03:45 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-5-3**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.9
C (96.7
   HR: 73 (69 - 112) bpm
   BP: 133/70(81) {111/53(66) - 141/97(101)} mmHg
   RR: 17 (13 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,647 mL
                                                                    543 mL
   PO:
             TF:
   IVF:
                                                                  1,377 mL
                                                                    423 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    150 mL
   Urine:
                                                                  1,350 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    297 mL
                                                                    393 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   40 K/uL
   129 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.2 mEq/L
   21 mg/dL
   98 mEq/L
   129 mEq/L
   31.0 %
   6.4 K/uL
        [image002.jpg]
                             [**2159-5-1**]  08:04 PM
                             [**2159-5-2**]  03:18 AM
                             [**2159-5-2**]  02:42 PM
                             [**2159-5-3**]  03:19 AM
   WBC
   10.8
   6.4
   Hct
   36.6
   31.0
   Plt
   61
   40
   Cr
   0.7
   0.8
   0.9
   0.7
   Glucose
   84
   74
   84
   129
   Other labs: PT / PTT / INR:18.3/37.2/1.7, ALT / AST:41/98, Alk Phos / T
   Bili:155/3.6, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   This 50F with hepatitis C cirrhosis, DM, and secondary adrenal
   insufficiency with recent hospitalization for hepatic encephalopathy
   returns with altered mental status and is found to be profoundly
   hyponatremic.
   .
   * Altered mental status
   Many possible etiologies in this patient with advanced liver disease.
   Hyponatremia and hypercalcemia both potential culprits - the factor
   that she's waking up following hydration in the ER suggests that these
   were important factors. WBC is elevated, concerning for possible
   underlying infection. No ascites to tap per ultrasound report. Worsened
   hepatic encephalopathy is obviously a concern given recent
   hospitalization. No evidence of GIB as possible precipitant of
   encephalopathy. No findings on exam to suggest meningitis. She is on
   multiple sedating medications such as oxycodone and neurontin, which
   may be contributing. There is no evidence of CNS bleeding and seizure
   seems unlikely. MI also less likely.
   - IVF for treatment of Na, Ca (see below)
   - blood and urine cultures
   - hold oxycodone and neurontin
   - place NGT
   - rifaximin and lactulose
   - urine and blood tox screens
   - will HOLD on LP for now given multiple other possible explanations
   for somnolence that are more likely for her
   - hold on ABG as MS improving
   .
   * Hyponatremia
   Na corrected rapidly post 2L of saline in ER yesterday, remained stable
   overnight
   Concern for intravascular volume depletion give recently restarted
   spironolactone, poor PO.
   - Repeat 1pm lytes, if Na stable will resume saline goal correction
   <=0.5meq/hr
   - HOLD diuretics for now
   .
   * Tachycardia
   Telemetry c/w sinus tach. Probably multifactorial with dehydration, and
   now also low grade temps. Consider whether opiate withdrawal could be
   contributing.
   - IVF plan as above, acetaminophen<2g/day okay for fever, continue to
   follow with infectious workup as below
   * Leukocytosis
   Suggests possible infection. CXR without evidence of pna. Could be
   atypical pna, may also mask infiltrate in setting of dehydration. Broad
   DDX including UTI, C diff given recent hospitalization. UA without any
   pyuria to suggest UTI. Absence of ascites on abdominal ultrasound
   making SBP less likely
   - Blood and urine cultures, urine legionella, CIS. sputum if making any
   - Follow CBC
   - vanc/zosyn/cipro empirically pending cultures for possible HCAP
   .
   * Hyperkalemia
   Improved today
   [**Month (only) 51**] be exacerbated by resuming both spironolactone and bactrim at
   recent discharge. EKG with peaked T's
   - Kayexalate
   - glucose/insulin, bicarb. holding on calcium given hyper Ca
   - monitor on telemetry
   - Follow K daily
   .
   * Hypercalcemia
   Patient was hypercalcemic at last admit, with improvement with holding
   calcium supplements per DC summary. PTH appropriately down at 13. Has
   been evaluated in endocrinology clinic and thought to be [**1-8**] high doses
   of calcitriol.
   - Holding calcium/D
   - IVF as above, follow
   .
   * Dilated bowel on CXR
   KUB c/w  ileus may be due to hypomagnesemia. Soft abdomen and nl
   lactate reassuring.
   - Replete Mag
   - Serial abdominal exams
   - Follow stool output
   .
   * Wrist pain
   Question of wrist fracture on plain films. Pt with known osteoporosis.
   - Place in splint, discuss with ortho in AM
   .
   * Cirrhosis
   MELD 16 today.
   - Rifaximin and lactulose
   - Trend LFTs, INR
   - Liver recommendations appreciated
   .
   * Thrombocytopenia
   Plts stable, follow
   .
   * DM
   Cover with insulin sliding scale
   .
   * Adrenal insufficiency
   Continue home prednisone, BP stable and mental status improved arguing
   against Addisonian crisis
   Remaining issues per ICU resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-5-1**] 09:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes

2159-05-03 08:04:00 Physician Resident Progress Note
Chief Complaint: altered mental status
   24 Hour Events:
   - pm sodium up to 129
   - although initial wrist film suggested a fracture, no fracture per
   ortho
   Allergies:
   Shellfish
   Rash;
   Flexeril (Oral) (Cyclobenzaprine Hcl)
   Hepatic toxicit
   Tricyclic Compounds
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2159-5-1**] 09:30 PM
   Ciprofloxacin - [**2159-5-1**] 10:20 PM
   Vancomycin - [**2159-5-2**] 08:46 AM
   Levofloxacin - [**2159-5-2**] 11:28 AM
   Metronidazole - [**2159-5-3**] 03:45 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Wants to eat. Still thirsty. Asking for her oxycontin that she takes
   for chronic hip pain.
   Flowsheet Data as of  [**2159-5-3**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.9
C (96.7
   HR: 73 (69 - 112) bpm
   BP: 133/70(81) {111/53(66) - 141/97(101)} mmHg
   RR: 17 (13 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,647 mL
                                                                    543 mL
   PO:
             TF:
   IVF:
                                                                  1,377 mL
                                                                    423 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    150 mL
   Urine:
                                                                  1,350 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    297 mL
                                                                    393 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   Lying in bed, appears comfortable
   Sclera anicteric
   Regular S1 S2 soft systolic murmur
   Lungs with few rales at bases R>L, no wheezing
   Abd soft nontender +bowel sounds
   Extrem warm no edema
   Oriented to [**Hospital1 19**] [**2159-4-6**]
   awake and following commands, more alert today, +asterixis
   Labs / Radiology
   40 K/uL
   10.5 g/dL
   129 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.2 mEq/L
   21 mg/dL
   98 mEq/L
   129 mEq/L
   31.0 %
   6.4 K/uL
        [image002.jpg]
                             [**2159-5-1**]  08:04 PM
                             [**2159-5-2**]  03:18 AM
                             [**2159-5-2**]  02:42 PM
                             [**2159-5-3**]  03:19 AM
   WBC
   10.8
   6.4
   Hct
   36.6
   31.0
   Plt
   61
   40
   Cr
   0.7
   0.8
   0.9
   0.7
   Glucose
   84
   74
   84
   129
   Other labs: PT / PTT / INR:18.3/37.2/1.7, ALT / AST:41/98, Alk Phos / T
   Bili:155/3.6, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:1.9 mg/dL
   CXR R base looks clear today
   Micro
   5/26,[**5-2**] blood cx NGTD
   [**5-1**] urine cx NGTD
   [**5-1**] urine legionella ag negative
   Assessment and Plan
   This 50F with hepatitis C cirrhosis, DM, and secondary adrenal
   insufficiency with recent hospitalization for hepatic encephalopathy
   returns with altered mental status and is found to be profoundly
   hyponatremic.
   .
   * Altered mental status
   Now much improved ?back to baseline
   Probably multifactorial due to electrolyte disturbances (low Na, high
   Ca), pain meds, hepatic encephalopathy, and possible overlying
   infection (?aspiration pna). Hyponatremia likely most important as
   mental status significantly improved with correction of sodium.
   - Continue to treat hyponatremia as below
   - Rifaximin and lactulose
   - Continue levo/flagyl x5d for possibile aspiration pna
   - Follow up cultures and CIS
   - Cautiously reintroduce pain meds for her chronic hip pain
   .
   * Hyponatremia
   Na corrected rapidly post 2L of saline in ER yesterday, remained stable
   overnight
   Concern for intravascular volume depletion give recently restarted
   spironolactone, poor PO.
   - Give add
l 1L of NS this AM, repeat 5pm Na
   - Continue to hold diuretics would restart at a lower dose
   .
   * Leukocytosis
   Resolved. Possible aspiration pna in setting of altered MS, had
   infiltrate R base which is improved.
   - Complete 5d of levo/flagyl can change to oral (NG) formulations
   - Sputum cx if any sputum
   * Hyperkalemia
   Resolved
   .
   * Hypercalcemia
   Resolved
   Patient was hypercalcemic at last admit, with improvement with holding
   calcium supplements per DC summary. PTH appropriately down at 13. Has
   been evaluated in endocrinology clinic and thought to be [**1-8**] high doses
   of calcitriol.
   - Holding calcium/D
   - IVF as above, follow
   .
   * Dilated bowel on CXR
   KUB c/w  ileus may be due to hypomagnesemia/hypercalcemia and opiates.
   Soft abdomen and nl lactate reassuring.  Now stooling so ileus
   improving.
   - Follow/Replete Mag
   - Serial abdominal exams
   - Follow stool output
   .
   * Wrist pain
   Pt with known osteoporosis. No fracture on ortho review. Currently pain
   free.
   .
   * Cirrhosis
   MELD 16 yesterday, await bili today for calculation
   - Rifaximin and lactulose, can give via NGT now that ileus resolving
   - Trend LFTs, INR
   - Liver recommendations appreciated
   .
   * Thrombocytopenia
   Plts stable, follow
   .
   * DM
   Cover with insulin sliding scale
   .
   * Adrenal insufficiency
   Continue home prednisone, BP stable and mental status improved arguing
   against Addisonian crisis
   .
   * Asthma
   Continue home inhalers
   .
   * Chronic pain
   Reintroduce opiates cautiously
   ICU Care
   Nutrition:
   Comments: trial of PO now that more awake
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2159-5-1**] 09:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to [**Hospital Ward Name 289**] 10